US08895580B2
Step 4: Preparation of (5-bromo-3-fluoropyridin-2-yl)methyl methanesulfonate
(5-Bromo-3-fluoropyridin-2-yl)methanol (0.20 g, 0.99 mmol) was dissolved in dichloromethane (5 mL), cooled to 0° C. and treated with triethylamine (0.15 mL, 1.1 mmol, 1.1 equiv) and methanesulfonyl chloride (0.085 mL, 1.1 mmol, 1.1 equiv). After 15 minutes, the mixture was diluted with dichloromethane (100 mL) and washed once with sodium bicarbonate (20 mL, aqueous saturated) and brine (50 mL), dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | (5-Bromo-3-fluoropyridin-2-yl)methanol | 0.99 mmol, 0.20 g | BrC=1C=C(C(=NC1)CO)F | C6H5BrFNO
reactant | triethylamine | 1.1 mmol, 0.15 mL, 1.1 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.1 mmol, 0.085 mL, 1.1 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (5-bromo-3-fluoropyridin-2-yl)methyl methanesulfonate | CS(=O)(=O)OCC1=NC=C(C=C1F)Br | C7H7BrFNO3S
